US06486156B1
A solution of methyl 4-[(E)-3-(1-tritylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate (5.78 g; 6.5 mmol), acetic acid (5 ml) and 12N HCl (5 ml) in methanol (100 ml) was refluxed for 1 hour 30 minutes. After evaporation to dryness, the residue was neutralised with aqueous NH4 OH, extracted with dichloromethane, evaporated and purified by flash chromatography, eluting with dichloromethane/ethanol (98/2) to give methyl 4-[(E)-3-(imidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate. Yield: 63%

reactant | methyl 4-[(E)-3-(1-tritylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | 6.5 mmol, 5.78 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C39H31FN2O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | HCl | 12N, 5 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | methyl 4-[(E)-3-(imidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | Yield: 63% | N1C(=NC=C1)C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C20H17FN2O2
